US04902700
Synthesis of 2-(3-nitrophenyl)methoxymethylbenzothiazole
A mixture of 1.60 g of 3-nitrobenzyl chloride, 1.3 g of 2-hydroxymethylbenzothiazole and 0.54 of potassium carbonate in 20 ml of acetone was stirred at room temperature for 1.5 hours and then refluxed for 30 minutes. After evaporation of acetone under reduced pressure, the residue was dissolved in ethyl acetate, washed with water and dried over magnesium sulfate, followed by evaporation of the solvent under reduced pressure. The residue was purified through a silica gel column chromatography by use of ethyl ether-n-hexane to obtain 1.7 g (yield 73%) of the title compound.

reactant | 3-nitrobenzyl chloride | 1.60 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | 2-hydroxymethylbenzothiazole | 1.3 g | OCC=1SC2=C(N1)C=CC=C2 | C8H7NOS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-(3-nitrophenyl)methoxymethylbenzothiazole | 1.7 g, yield 73% | [N+](=O)([O-])C=1C=C(C=CC1)COCC=1SC2=C(N1)C=CC=C2 | C15H12N2O3S
